US07544698B2
cis-(5-Chloro-1H-benzoimidazol-2-yl)-(octahydro-pyrrolo[3,4-b]pyridin-6-yl)-methanone
To a suspension of 5-chloro-2-trichloromethyl-1H-benzoimidazole (30 mg, 0.11 mmol) and K2CO3 (46 mg, 0.33 mmol) in CH3CN/H2O (10:1, 3 mL) was added cis-octahydro-pyrrolo[3,4-b]pyridine (28 mg, 0.22 mmol). After 1 h at 100° C., the mixture was filtered and extracted with CH2Cl2. The organic layer was dried (Na2SO4) and concentrated to give a yellow oil, which was purified by FCC to give a brown solid (14 mg, 40%). MS (ESI): mass calcd. for C15H17ClN4O, 304.11; m/z found, 305.4 [M+H]+. 1H NMR (mixture of rotamers; MeOD): 7.70-7.58 (m, 2H), 7.35-7.25 (m, 1H), 4.43-4.28 (m, 0.6H), 4.19-4.09 (m, 0.6H), 3.77-3.69 (m, 1H), 3.46-3.40 (m, 0.3H), 3.38-3.33 (m, 0.3H), 3.33-3.28 (m, 2H), 3.04-2.82 (m, 1.5H), 2.71-2.53 (m, 1H), 2.50-2.31 (m, 1.5H), 1.95-1.43 (m, 4H).

reactant | 5-chloro-2-trichloromethyl-1H-benzoimidazole | 0.11 mmol, 30 mg | ClC1=CC2=C(NC(=N2)C(Cl)(Cl)Cl)C=C1 | C8H4Cl4N2
reactant | K2CO3 | 0.33 mmol, 46 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | cis-octahydro-pyrrolo[3,4-b]pyridine | 0.22 mmol, 28 mg | N1[C@@H]2[C@H](CCC1)CNC2 | C7H14N2
solvent | CH3CN H2O | 3 mL | CC#N.O
product | cis-(5-Chloro-1H-benzoimidazol-2-yl)-(octahydro-pyrrolo[3,4-b]pyridin-6-yl)-methanone | 14 mg, 40% | ClC1=CC2=C(NC(=N2)C(=O)N2C[C@@H]3NCCC[C@@H]3C2)C=C1 | C15H17ClN4O
